*** 2-tone analysis for a Mesfet with power dissipation ***

.options f0 = 1.0e9 f1 = 1.0000001e9 temp=300.

.svhb n_freqs=3 n_freqs2=3 fundamental=f0 fundamental2=f1
* steps=0 deriv=0

inductor:l1 1 2 l=1e-9 time_d=0
capacitor:c1 2 3 c=20e-11 time_d=0

inductor:l2 3 7 l=15e-9 time_d=0 
resistor:r2 7 8 r=100

inductor:l3 4 5 l=15e-9 time_d=0 
resistor:r3 5 6 r=10
capacitor:cload 4 9 c=20e-12 time_d=0
resistor:rload 9 0 r=50.

vsource:vbias 8 0  vdc = -.2
vsource:vdrain 6 0 vdc = 3.
resistor:rin 11 1 r = 50
vsource:vs0 11 111 f= f0 vac = .4
vsource:vs1 111 0 f= f1 vac = .4

resistor:rs 123 0 r=1.144

*** Mesfet with power dissipation
mesfetct:m1 3 4 123 1000 "tref"
+ a0 = .016542 a1 = .0500214 a2 = .02012 a3 = -.00806592
+ gama = 2.16505 t = 5e-12 beta = -.0394707 is = 1e-9
+ vbd = 15 nr = 10 ib0 = 1e-9 cgs0 = .52785e-12 cgd0 = .087e-12 

*** Thermal circuit
thermaltest:test1 1000 1001 Tambient=temp
vsource:t1 1001 "tref" vdc=temp
.ref "tref"

.out plot term 4 vf term 123 vf sub mag
+ "set logscale x; set data style i" in "mag.vds"
.out plot term 1000 vf mag "set logscale x; set data style i" in "mag.temp"
.out plot element "mesfetct:m1" 1 if mag
+ "set logscale x; set data style i" in "mag.ids"
.out plot element "mesfetct:m1" 2 if mag
+ "set logscale x; set data style i" in "mag.power"

.end
